US08314202B2
Synthesis of the diepoxide (diglycidyl ether) of 4,4′-bishydroxydeoxybenzoin (BEDB).
Synthesis of the diepoxide (diglycidyl ether) of 3,3′,5,5′-tetrabromobisphenol A (ETBBA) (See, Wang et al. J Appl Polym Sci 1991; 43: 1315-1321.) ETBBA was prepared in a similar manner as BEDB, using TBBA (24.9 g) instead of BHDB. This gave ETBBA (25.4 g, 85%). 1H-NMR (CDCl3, ppm): 7.30 (s, 4H, Ar—H), 4.21-4.18 (q, 2H, 2(—O—CH2-oxirane)), 4.09-4.05 (q, 2H, 2(—O—CH2-oxirane)), 3.51-3.46 (m, 2H, 2(oxirane CH2)), 2.92-2.90 (t, 2H, 2(oxirane CH2)), 2.75-2.74 (q, 2H, 2(oxirane CH2)), 1.60 (s, 6H, Ar—C(CH3)2—Ar).

reactant | 3,3′,5,5′-tetrabromobisphenol A | CC(C)(C=1C=C(C(=C(C1)Br)O)Br)C=2C=C(C(=C(C2)Br)O)Br | C15H12Br4O2
reactant | TBBA | 24.9 g | CC(C)(C)C1=CC=C(C=C1)C(=O)O | C11H14O2
reactant | oxirane | O1CC1 | C2H4O
product | 4,4′-bishydroxydeoxybenzoin | OC1=CC=C(C=C1)C(=O)CC1=CC=C(C=C1)O | C14H12O3
